US07429565B2
Phosphoric acid mono-{4-[6-methoxy-7-methyl-3-oxo-4-hydroxy-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl} ester
A solution of phosphorous acid mono-{4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl} ester (27 mg, 0.06 mmol) in dioxane (1 mL) was stirred with DIEA (21 μL, 0.12 mmol) and N,O-bis(trimethylsilyl)acetamide (29 μL, 0.12 mmol) at room temperature for 3 hours. To the reaction solution was added 2,2′-dipyridyldisulfide (16 mg, 0.072 mmol) and the mixture was allowed to stir for an additional 2 hours at room temperature. The reaction mixture was diluted by addition of H2O and the solution was stirred for 2 more hours when it was concentrated. The residue was dissolved in a solution of 10% TFA/CH2Cl2 and stirred at room temperature for 9 hours. The reaction mixture was dried under reduced pressure and the product was purified by reverse-phase HPLC to provide the desired product as a white solid. 1H NMR (300 MHz, CD3OD) δ 1.87 (s, 3H), 2.16 (s, 3H), 3.47 (d, 2H, J=7 Hz), 3.79 (s, 3H), 4.28 (d, 2H, J=6 Hz), 5.26 (s, 2H), 5.50-5.61 (m, 1H); 31P (121.4 MHz, CD3OD) δ 0.50; MS (m/z) 357 [M−H]−.

reactant | phosphorous acid mono-{4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl} ester | 0.06 mmol, 27 mg | COC1=C(C(=C2C(OCC2=C1C)=O)OCC[Si](C)(C)C)CC=C(COP(O)O)C | C20H31O7PSi
reactant | DIEA | 0.12 mmol, 21 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | N,O-bis(trimethylsilyl)acetamide | 0.12 mmol, 29 μL | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | 2,2′-dipyridyldisulfide | 0.072 mmol, 16 mg | C1=CC=NC(=C1)SSC2=CC=CC=N2 | C10H8N2S2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | H2O | O | H2O
product | Phosphoric acid mono-{4-[6-methoxy-7-methyl-3-oxo-4-hydroxy-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl} ester | COC1=C(C(=C2C(OCC2=C1C)=O)O)CC=C(COP(O)(O)=O)C | C15H19O8P
